* D:\programacion\Python\proyectoFiltroPasaBanda\probando.asc
R1 Vout Vin 10k
C1 Vout 0 1µ
V1 Vin 0 wavefile="EG 2.wav"
.tran 5
.wave salida.wav 16 44.1k V(vout)
.backanno
.end
